US08106053B2
Synthesis of 5-(3-(2-indanyloxy)-4-methoxyphenyl)-2-methylpyridazin-3-one (Table 1, Compound No. 13)
Using a method similar to Working Example 1 (1)-(4), 3-(2-indanyloxy)-4-methoxybenzaldehyde was substituted for 3,4-dimethoxybenzaldehyde and methylhydrazine for hydrazine hydrate to obtain the title compound.

reactant | 3-(2-indanyloxy)-4-methoxybenzaldehyde | C1C(CC2=CC=CC=C12)OC=1C=C(C=O)C=CC1OC | C17H16O3
reactant | 3,4-dimethoxybenzaldehyde | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | methylhydrazine | CNN | CH6N2
reactant | hydrazine hydrate | O.NN
product | 5-(3-(2-indanyloxy)-4-methoxyphenyl)-2-methylpyridazin-3-one | C1C(CC2=CC=CC=C12)OC=1C=C(C=CC1OC)C1=CC(N(N=C1)C)=O | C21H20N2O3
